* ==========================================================================
* @part: CD4017B CD4060B CD4013B CD4040B
* @family: logic
* @source: MicroCap
* @url: https://ngspice.sourceforge.io/model-parameters/MicroCap-LIBRARY.7z (Micro-Cap 12 library)
* @origin-file: ngspice/MicroCap-LIBRARY/MicroCap-LIBRARY-for-ngspice/cmos.lib
* @retrieved: 2026-09-24
* @licence: no licence or copyright text in the vendor file (terms unknown)
* @added-by: garv.singh
* @pins: CD4017B: CLK CLKENBAR RESET COUT Q0 Q1 Q2 Q3 Q4 Q5 Q6 Q7 Q8 Q9
* @pins: CD4060B: OUT1 OUT2 RESET CLOCK Q4 Q5 Q6 Q7 Q8 Q9 Q10 Q12 Q13 Q14
* @pins: CD4013B: SA RA CA DA QA QABAR
* @pins: CD4040B: CLK RESET Q1 Q2 Q3 Q4 Q5 Q6 Q7 Q8 Q9 Q10 Q11 Q12
* @notes: PSpice digital (U-devices): ngspice only
* Definitions below are copied verbatim from the origin file.
* ==========================================================================

* ---- original file header ----
* -------------------------------------------------------------------------
*    Spectrum Software, all rights reserved, copywrite 1994,
*    Micro-Cap V Digital Library
*
*    Parts in this library are modeled at ambient room temperature (TA=25øC)
*    unless otherwise noted. Delays were taken from tables specifying a load
*    capacitance of 50pF.  (CL = 50pF unless otherwise stated.)
*
*    The CMOS Logic library contains parts found in the National CMOS
*    Logic Databook, 1988, and Motorola CMOS Logic Data book, 1991, DL131.
*
*    Note that the constraint data from the Motorola book listed above had
*    the min and max values reversed.  In this library, they are transposed
*    so that min constraint times represent best case scenarios (as in 
*    min delay times), and max constraint times represent worst case
*    scenarios.  This is then consistent with the National data book.

* ----------------------------------------------------------- CD4000----
*
*  Dual 3-Input NOR Gate plus Inverter
*
*  The CMOS Logic Data Book, 1988, National Pages 5-3 to 5-5
*  bss    2/14/95
*
* ---- end of original file header ----

*
*
* ----------------------------------------------------------- CD4013B----
*
*  Dual Type D Flip-Flop
*
*  The CMOS Logic Data Book, 1991, Motorola Pages 6-33 to 6-36
*  jds    6/6/94
*  This part is shown in the data book as MC14013B
*
.SUBCKT CD4013B SA RA CA DA QA QABAR
+  optional: VDD=$G_CD4000_VDD VSS=$G_CD4000_VSS
+  params: MNTYMXDLY=0 IO_LEVEL=0
*
Uf0 inva(2) VDD VSS
+   SA RA prebar clrbar
+   D0_GATE IO_4000B MNTYMXDLY={MNTYMXDLY} IO_LEVEL={IO_LEVEL}

Uf1 dff(1) VDD VSS
+   prebar clrbar CA DA Q_A Q_ABAR
+   DFF4013B IO_4000B MNTYMXDLY={MNTYMXDLY} IO_LEVEL={IO_LEVEL}

.MODEL DFF4013B UEFF(TWPCLMN=250NS TWPCLTY=125NS TWPCLMX=-1
+                    TWCLKLMN=250NS TWCLKLTY=125NS TWCLKLMX=-1
+                    TWCLKHMN=250NS TWCLKHTY=125NS TWCLKHMX=-1
+                    TSUDCLKMN=-1NS TSUDCLKTY=250NS TSUDCLKMX=-1
+                    THDCLKMN=40NS THDCLKTY=20NS THDCLKMX=-1)

U3 PINDLY(2,0,3) VDD VSS
+ Q_A Q_ABAR
+ CA SA RA
+ QA QABAR
+ IO_4000B MNTYMXDLY={MNTYMXDLY} IO_LEVEL={IO_LEVEL}
+ BOOLEAN:
+          EDGE = {CHANGED_LH(CA,0)}
+          SET = {CHANGED_LH(SA,0)}
+          CLEAR = {CHANGED_LH(RA,0)}
+ PINDLY:
+          QA QABAR = {
+            CASE(
+               SET, DELAY(-1,175NS,350NS),
+               CLEAR, DELAY(-1,225NS,450NS),
+               EDGE & (TRN_LH | TRN_HL), DELAY(-1,175NS,350NS),
+               DELAY(-1,226NS,451NS))}
  
U4 CONSTRAINT(3) VDD VSS
+ CA SA RA
+ IO_4000B IO_LEVEL={IO_LEVEL}
+ FREQ:
+        NODE = CA
+        MAXFREQ = 2MEG
+ SETUP_HOLD:
+             CLOCK LH = CA
+             DATA(2) = SA RA
+             SETUPTIME_LO = 80NS
+             HOLDTIME_LO = 50NS

.ENDS CD4013B

* ----------------------------------------------------------- CD4017B----
*
*  Decade Counter
*
*  The CMOS Logic Data Book, 1991, Motorola Pages 6-54 to 6-58
*  jds    6/6/94
*  This part is shown in the data book as MC14017B
*  Note that the NAND gate feeding into the 3rd flip-flops D input should
*  be an AND gate for the circuit to operate as in the timing diagram.
*
.SUBCKT CD4017B CLK CLKENBAR RESET COUT Q0 Q1 Q2 Q3 Q4 Q5 Q6 Q7 Q8 Q9
+  optional: VDD=$G_CD4000_VDD VSS=$G_CD4000_VSS
+  params: MNTYMXDLY=0 IO_LEVEL=0

U14017B LOGICEXP(13,14) VDD VSS
+      CLK CLKENBAR RESET q1ff q2ff q3ff q4ff q5ff
+      q1ffbar q2ffbar q3ffbar q4ffbar q5ffbar
+      clock clear i1
+      COUT_O Q0_O Q1_O Q2_O Q3_O Q4_O Q5_O Q6_O Q7_O Q8_O Q9_O
+      D0_GATE IO_4000B MNTYMXDLY={MNTYMXDLY} IO_LEVEL={IO_LEVEL}
+
+    LOGIC:
+      clock = {( CLK & ~CLKENBAR )}
+      clear = { (~RESET) }
+      i1 = { (q2ff & (q1ff | q3ff)) }
+      Q0_O = { (q1ffbar & q5ffbar) }
+      Q1_O = { (q1ff & q2ffbar) }
+      Q2_O = { (q2ff & q3ffbar) }
+      Q3_O = { (q3ff & q4ffbar) }
+      Q4_O = { (q4ff & q5ffbar) }
+      Q5_O = { (q1ff & q5ff) }
+      Q6_O = { (q1ffbar & q2ff) }
+      Q7_O = { (q2ffbar & q3ff) }
+      Q8_O = { (q3ffbar & q4ff) }
+      Q9_O = { (q5ff & q4ffbar) }
+      COUT_O = { q5ffbar }

Uf0 dff(5) VDD VSS
+   $D_HI clear clock q5ffbar q1ff i1 q3ff q4ff
+   q1ff q2ff q3ff q4ff q5ff q1ffbar q2ffbar q3ffbar q4ffbar q5ffbar
+   DLY_DFF IO_4000B MNTYMXDLY={MNTYMXDLY} IO_LEVEL={IO_LEVEL}

.MODEL DLY_DFF UEFF(TWCLKLMN=-1 TWCLKLTY=125NS TWCLKLMX=250NS
+                   TWCLKHMN=-1 TWCLKHTY=125NS TWCLKHMX=250NS)

Udly PINDLY (11,0,2) VDD VSS
+    COUT_O Q0_O Q1_O Q2_O Q3_O Q4_O Q5_O Q6_O Q7_O Q8_O Q9_O
+    CLK RESET
+    COUT Q0 Q1 Q2 Q3 Q4 Q5 Q6 Q7 Q8 Q9
+    IO_4000B MNTYMXDLY={MNTYMXDLY} IO_LEVEL={IO_LEVEL}
+
+    BOOLEAN:
+     CP = {CHANGED_LH(CLK,0)}
+     CLR = { CHANGED_LH(RESET,0) }
+
+    PINDLY:
+       Q0 Q1 Q2 Q3 Q4 Q5 Q6 Q7 Q8 Q9 = {
+            CASE(
+                 CLR, DELAY(-1,500ns,1us),
+                 CP, DELAY(-1,500ns,1us),
+                 DELAY(-1,501ns,1.001us)
+                )
+            }
+       COUT = {
+            CASE(
+                 CLR, DELAY(-1,400ns,800ns),
+                 CP, DELAY(-1,400ns,800ns),
+                 DELAY(-1,401ns,801ns)
+                )
+            }

Ucnstr CONSTRAINT(3) VDD VSS
+          CLKENBAR CLK RESET
+          IO_4000B
+
+      FREQ:
+         NODE = CLK
+         MAXFREQ = 5MEG
+      WIDTH:
+         NODE = RESET
+         MIN_HI = 250ns
+      SETUP_HOLD:
+        CLOCK LH = CLK
+        DATA(1) = CLKENBAR
+        SETUPTIME_HI = 175ns
+        SETUPTIME_LO = 260ns
+        WHEN = { RESET != '1 }
+      SETUP_HOLD:
+        CLOCK LH = CLK
+        DATA(1) = RESET
+        SETUPTIME_LO = 375ns

.ENDS CD4017B

* ----------------------------------------------------------- CD4040B ----
*
*  12-Stage Binary Counter
*
*  The CMOS Logic Data Book, 1991, Motorola Pages 6-108 to 6-111
*  jds    6/8/94
*  This part is shown in the data book as MC14040B
*
.SUBCKT CD4040B CLK RESET Q1 Q2 Q3 Q4 Q5 Q6 Q7 Q8 Q9 Q10 Q11 Q12
+  optional: VDD=$G_CD4000_VDD VSS=$G_CD4000_VSS
+  params: MNTYMXDLY=0 IO_LEVEL=0

USTBUF BUF VDD VSS
+ CLK CLKST
+ D0_GATE IO_4000B_ST MNTYMXDLY={MNTYMXDLY} IO_LEVEL={IO_LEVEL}

uf0 inv VDD VSS
+   RESET clr
+   D0_GATE IO_4000B MNTYMXDLY={MNTYMXDLY} IO_LEVEL={IO_LEVEL}

Uf1 jkff(1) VDD VSS
+   $D_HI clr CLKST $D_HI $D_HI Q1_O Q1BAR_O
+   D0_EFF IO_4000B MNTYMXDLY={MNTYMXDLY} IO_LEVEL={IO_LEVEL}

Uf2 jkff(1) VDD VSS
+   $D_HI clr Q1_O $D_HI $D_HI Q2_O Q2BAR_O
+   D0_EFF IO_4000B MNTYMXDLY={MNTYMXDLY} IO_LEVEL={IO_LEVEL}

Uf3 jkff(1) VDD VSS
+   $D_HI clr Q2_O $D_HI $D_HI Q3_O Q3BAR_O
+   D0_EFF IO_4000B MNTYMXDLY={MNTYMXDLY} IO_LEVEL={IO_LEVEL}

Uf4 jkff(1) VDD VSS
+   $D_HI clr Q3_O $D_HI $D_HI Q4_O Q4BAR_O
+   D0_EFF IO_4000B MNTYMXDLY={MNTYMXDLY} IO_LEVEL={IO_LEVEL}

Uf5 jkff(1) VDD VSS
+   $D_HI clr Q4_O $D_HI $D_HI Q5_O Q5BAR_O
+   D0_EFF IO_4000B MNTYMXDLY={MNTYMXDLY} IO_LEVEL={IO_LEVEL}

Uf6 jkff(1) VDD VSS
+   $D_HI clr Q5_O $D_HI $D_HI Q6_O Q6BAR_O
+   D0_EFF IO_4000B MNTYMXDLY={MNTYMXDLY} IO_LEVEL={IO_LEVEL}

Uf7 jkff(1) VDD VSS
+   $D_HI clr Q6_O $D_HI $D_HI Q7_O Q7BAR_O
+   D0_EFF IO_4000B MNTYMXDLY={MNTYMXDLY} IO_LEVEL={IO_LEVEL}

Uf8 jkff(1) VDD VSS
+   $D_HI clr Q7_O $D_HI $D_HI Q8_O Q8BAR_O
+   D0_EFF IO_4000B MNTYMXDLY={MNTYMXDLY} IO_LEVEL={IO_LEVEL}

Uf9 jkff(1) VDD VSS
+   $D_HI clr Q8_O $D_HI $D_HI Q9_O Q9BAR_O
+   D0_EFF IO_4000B MNTYMXDLY={MNTYMXDLY} IO_LEVEL={IO_LEVEL}

Uf10 jkff(1) VDD VSS
+   $D_HI clr Q9_O $D_HI $D_HI Q10_O Q10BAR_O
+   D0_EFF IO_4000B MNTYMXDLY={MNTYMXDLY} IO_LEVEL={IO_LEVEL}

Uf11 jkff(1) VDD VSS
+   $D_HI clr Q10_O $D_HI $D_HI Q11_O Q11BAR_O
+   D0_EFF IO_4000B MNTYMXDLY={MNTYMXDLY} IO_LEVEL={IO_LEVEL}

Uf12 jkff(1) VDD VSS
+   $D_HI clr Q11_O $D_HI $D_HI Q12_O Q12BAR_O
+   D0_EFF IO_4000B MNTYMXDLY={MNTYMXDLY} IO_LEVEL={IO_LEVEL}

Udly PINDLY (12,0,13) VDD VSS
+    Q1_O Q2_O Q3_O Q4_O Q5_O Q6_O Q7_O Q8_O Q9_O Q10_O Q11_O Q12_O
+    CLK RESET Q1BAR Q2BAR Q3BAR Q4BAR Q5BAR Q6BAR Q7BAR
+    Q8BAR Q9BAR Q10BAR Q11BAR
+    Q1 Q2 Q3 Q4 Q5 Q6 Q7 Q8 Q9 Q10 Q11 Q12
+    IO_4000B MNTYMXDLY={MNTYMXDLY} IO_LEVEL={IO_LEVEL}
+
+    PINDLY:
+       Q1  = {
+            CASE(
+                 CHANGED(RESET,0) & TRN_HL, DELAY(-1,370ns,740ns),
+                 CHANGED_HL(CLK,0), DELAY(-1,260ns,520ns),
+                 DELAY(-1,261ns,521ns)
+                )
+            }
+       Q2  = {
+            CASE(
+                 CHANGED(RESET,0) & TRN_HL, DELAY(-1,370ns,740ns),
+                 CHANGED_HL(Q1_O,0), DELAY(-1,384.1ns,768.2ns),
+                 DELAY(-1,385.1ns,769.2ns)
+                )
+            }
+       Q3  = {
+            CASE(
+                 CHANGED(RESET,0) & TRN_HL, DELAY(-1,370ns,740ns),
+                 CHANGED_HL(Q2_O,0), DELAY(-1,508.2ns,1016.4ns),
+                 DELAY(-1,509.2ns,1017.4ns)
+                )
+            }
+       Q4  = {
+            CASE(
+                 CHANGED(RESET,0) & TRN_HL, DELAY(-1,370ns,740ns),
+                 CHANGED_HL(Q3_O,0), DELAY(-1,632.3ns,1264.6ns),
+                 DELAY(-1,633.3ns,1265.6ns)
+                )
+            }
+       Q5  = {
+            CASE(
+                 CHANGED(RESET,0) & TRN_HL, DELAY(-1,370ns,740ns),
+                 CHANGED_HL(Q4_O,0), DELAY(-1,756.4ns,1512.8ns),
+                 DELAY(-1,757.4ns,1513.8ns)
+                )
+            }
+       Q6  = {
+            CASE(
+                 CHANGED(RESET,0) & TRN_HL, DELAY(-1,370ns,740ns),
+                 CHANGED_HL(Q5_O,0), DELAY(-1,880.5ns,1761ns),
+                 DELAY(-1,881.5ns,1762ns)
+                )
+            }
+       Q7  = {
+            CASE(
+                 CHANGED(RESET,0) & TRN_HL, DELAY(-1,370ns,740ns),
+                 CHANGED_HL(Q6_O,0), DELAY(-1,1004.6ns,2009.2ns),
+                 DELAY(-1,1005.6ns,2010.2ns)
+                )
+            }
+       Q8  = {
+            CASE(
+                 CHANGED(RESET,0) & TRN_HL, DELAY(-1,370ns,740ns),
+                 CHANGED_HL(Q7_O,0), DELAY(-1,1128.7ns,2257.4ns),
+                 DELAY(-1,1129.7ns,2258.4ns)
+                )
+            }
+       Q9  = {
+            CASE(
+                 CHANGED(RESET,0) & TRN_HL, DELAY(-1,370ns,740ns),
+                 CHANGED_HL(Q8_O,0), DELAY(-1,1252.8ns,2505.6ns),
+                 DELAY(-1,1253.8ns,2506.6ns)
+                )
+            }
+       Q10  = {
+            CASE(
+                 CHANGED(RESET,0) & TRN_HL, DELAY(-1,370ns,740ns),
+                 CHANGED_HL(Q9_O,0), DELAY(-1,1376.9ns,2753.8ns),
+                 DELAY(-1,1377.9ns,2754.8ns)
+                )
+            }
+       Q11  = {
+            CASE(
+                 CHANGED(RESET,0) & TRN_HL, DELAY(-1,370ns,740ns),
+                 CHANGED_HL(Q10_O,0), DELAY(-1,1501ns,3002ns),
+                 DELAY(-1,1502ns,3003ns)
+                )
+            }
+       Q12  = {
+            CASE(
+                 CHANGED(RESET,0) & TRN_HL, DELAY(-1,370ns,740ns),
+                 CHANGED_HL(Q11_O,0), DELAY(-1,1625ns,3250ns),
+                 DELAY(-1,1626ns,3251ns)
+                )
+            }

Ucnstr CONSTRAINT(2) VDD VSS
+          CLK RESET
+          IO_4000B
+
+      FREQ:
+         NODE = CLK
+         MAXFREQ = 2.1MEG
+      WIDTH:
+         NODE = CLK
+         MIN_HI = 140ns
+      WIDTH:
+         NODE = RESET
+         MIN_HI = 320ns
+      SETUP_HOLD:
+        CLOCK HL = CLK
+        DATA(1) = RESET
+        SETUPTIME_LO = 65ns

.ENDS CD4040B

.SUBCKT CD4060B
+ OUT1 OUT2 RESET CLOCK Q4 Q5 Q6 Q7 Q8 Q9 Q10 Q12 Q13 Q14
+ OPTIONAL:  VDD=$G_CD4000_VDD VSS=$G_CD4000_VSS
+ PARAMS:  MNTYMXDLY=0 IO_LEVEL=0

U1 LOGICEXP(2,4) VDD VSS
+ RESET CLOCK
+ RESETBAR CLOCKBAR OUT1 OUT2
+ D0_GATE IO_4000B MNTYMXDLY={MNTYMXDLY} IO_LEVEL={IO_LEVEL}
+ LOGIC:
+   RESETBAR = {~RESET}
+   CLOCKBAR = {~CLOCK}
+   OUT1 = {CLOCKBAR}
+   OUT2 = {CLOCK}

U2 BUF VDD VSS
+ CLOCKBAR CLOCKBARST
+ D0_GATE IO_4000B MNTYMXDLY={MNTYMXDLY} IO_LEVEL={IO_LEVEL}

U3 JKFF(1) VDD VSS
+ $D_HI RESETBAR CLOCKBARST
+ $D_HI $D_HI Q_1 Q_1BAR
+ D0_EFF IO_4000B MNTYMXDLY={MNTYMXDLY} IO_LEVEL={IO_LEVEL}

U4 JKFF(1) VDD VSS
+ $D_HI RESETBAR Q_1
+ $D_HI $D_HI Q_2 Q_2BAR
+ D0_EFF IO_4000B MNTYMXDLY={MNTYMXDLY} IO_LEVEL={IO_LEVEL}

U5 JKFF(1) VDD VSS
+ $D_HI RESETBAR Q_2
+ $D_HI $D_HI Q_3 Q_3BAR
+ D0_EFF IO_4000B MNTYMXDLY={MNTYMXDLY} IO_LEVEL={IO_LEVEL}

U6 JKFF(1) VDD VSS
+ $D_HI RESETBAR Q_3
+ $D_HI $D_HI Q_4 Q_4BAR
+ D0_EFF IO_4000B MNTYMXDLY={MNTYMXDLY} IO_LEVEL={IO_LEVEL}

U7 JKFF(1) VDD VSS
+ $D_HI RESETBAR Q_4
+ $D_HI $D_HI Q_5 Q_5BAR
+ D0_EFF IO_4000B MNTYMXDLY={MNTYMXDLY} IO_LEVEL={IO_LEVEL}

U8 JKFF(1) VDD VSS
+ $D_HI RESETBAR Q_5
+ $D_HI $D_HI Q_6 Q_6BAR
+ D0_EFF IO_4000B MNTYMXDLY={MNTYMXDLY} IO_LEVEL={IO_LEVEL}

U9 JKFF(1) VDD VSS
+ $D_HI RESETBAR Q_6
+ $D_HI $D_HI Q_7 Q_7BAR
+ D0_EFF IO_4000B MNTYMXDLY={MNTYMXDLY} IO_LEVEL={IO_LEVEL}

U10 JKFF(1) VDD VSS
+ $D_HI RESETBAR Q_7
+ $D_HI $D_HI Q_8 Q_8BAR
+ D0_EFF IO_4000B MNTYMXDLY={MNTYMXDLY} IO_LEVEL={IO_LEVEL}

U11 JKFF(1) VDD VSS
+ $D_HI RESETBAR Q_8
+ $D_HI $D_HI Q_9 Q_9BAR
+ D0_EFF IO_4000B MNTYMXDLY={MNTYMXDLY} IO_LEVEL={IO_LEVEL}

U12 JKFF(1) VDD VSS
+ $D_HI RESETBAR Q_9
+ $D_HI $D_HI Q_10 Q_10BAR
+ D0_EFF IO_4000B MNTYMXDLY={MNTYMXDLY} IO_LEVEL={IO_LEVEL}

U13 JKFF(1) VDD VSS
+ $D_HI RESETBAR Q_10
+ $D_HI $D_HI Q_11 Q_11BAR
+ D0_EFF IO_4000B MNTYMXDLY={MNTYMXDLY} IO_LEVEL={IO_LEVEL}

U14 JKFF(1) VDD VSS
+ $D_HI RESETBAR Q_11
+ $D_HI $D_HI Q_12 Q_12BAR
+ D0_EFF IO_4000B MNTYMXDLY={MNTYMXDLY} IO_LEVEL={IO_LEVEL}

U15 JKFF(1) VDD VSS
+ $D_HI RESETBAR Q_12
+ $D_HI $D_HI Q_13 Q_13BAR
+ D0_EFF IO_4000B MNTYMXDLY={MNTYMXDLY} IO_LEVEL={IO_LEVEL}

U16 JKFF(1) VDD VSS
+ $D_HI RESETBAR Q_13
+ $D_HI $D_HI Q_14 Q_14BAR
+ D0_EFF IO_4000B MNTYMXDLY={MNTYMXDLY} IO_LEVEL={IO_LEVEL}

U17 PINDLY(10,0,11) VDD VSS
+ Q_4 Q_5 Q_6 Q_7 Q_8 Q_9 Q_10 Q_12 Q_13 Q_14
+ RESET Q_3 Q_4 Q_5 Q_6 Q_7 Q_8 Q_9 Q_11 Q_12 Q_13
+ Q4 Q5 Q6 Q7 Q8 Q9 Q10 Q12 Q13 Q14
+ IO_4000B MNTYMXDLY={MNTYMXDLY} IO_LEVEL={IO_LEVEL}
+ PINDLY:
+         Q4 = {
+           CASE(
+             CHANGED(RESET,0) & TRN_HL, DELAY(-1,170NS,360NS),
+             CHANGED_HL(Q_3,0) & (TRN_LH | TRN_HL), DELAY(-1,415NS,740NS),
+             DELAY(-1,416NS,741NS))}
+         Q5 = {
+           CASE(
+             CHANGED(RESET,0) & TRN_HL, DELAY(-1,170NS,360NS),
+             CHANGED_HL(Q_4,0) & (TRN_LH | TRN_HL), DELAY(-1,523.5NS,936NS),
+             DELAY(-1,524.5NS,937NS))}
+         Q6 = {
+           CASE(
+             CHANGED(RESET,0) & TRN_HL, DELAY(-1,170NS,360NS),
+             CHANGED_HL(Q_5,0) & (TRN_LH | TRN_HL), DELAY(-1,632NS,1132NS),
+             DELAY(-1,633NS,1133NS))}
+         Q7 = {
+           CASE(
+             CHANGED(RESET,0) & TRN_HL, DELAY(-1,170NS,360NS),
+             CHANGED_HL(Q_6,0) & (TRN_LH | TRN_HL), DELAY(-1,740.5NS,1328NS),
+             DELAY(-1,741.5NS,1329NS))}
+         Q8 = {
+           CASE(
+             CHANGED(RESET,0) & TRN_HL, DELAY(-1,170NS,360NS),
+             CHANGED_HL(Q_7,0) & (TRN_LH | TRN_HL), DELAY(-1,849NS,1524NS),
+             DELAY(-1,850NS,1525NS))}
+         Q9 = {
+           CASE(
+             CHANGED(RESET,0) & TRN_HL, DELAY(-1,170NS,360NS),
+             CHANGED_HL(Q_8,0) & (TRN_LH | TRN_HL), DELAY(-1,957.5NS,1720NS),
+             DELAY(-1,958.5NS,1721NS))}
+         Q10 = {
+           CASE(
+             CHANGED(RESET,0) & TRN_HL, DELAY(-1,170NS,360NS),
+             CHANGED_HL(Q_9,0) & (TRN_LH | TRN_HL), DELAY(-1,1066NS,1916NS),
+             DELAY(-1,1067NS,1917NS))}
+         Q12 = {
+           CASE(
+             CHANGED(RESET,0) & TRN_HL, DELAY(-1,170NS,360NS),
+             CHANGED_HL(Q_11,0) & (TRN_LH | TRN_HL), DELAY(-1,1283NS,2308NS),
+             DELAY(-1,1284NS,2309NS))}
+         Q13 = {
+           CASE(
+             CHANGED(RESET,0) & TRN_HL, DELAY(-1,170NS,360NS),
+             CHANGED_HL(Q_12,0) & (TRN_LH | TRN_HL), DELAY(-1,1391.5NS,2504NS),
+             DELAY(-1,1392.5NS,2505NS))}
+         Q14 = {
+           CASE(
+             CHANGED(RESET,0) & TRN_HL, DELAY(-1,170NS,360NS),
+             CHANGED_HL(Q_13,0) & (TRN_LH | TRN_HL), DELAY(-1,1500NS,2700NS),
+             DELAY(-1,1501NS,2701NS))}

U18 CONSTRAINT(2) VDD VSS
+ CLOCK RESET
+ IO_4000B IO_LEVEL={IO_LEVEL}
+ WIDTH:
+        NODE = CLOCK
+        MIN_HI = 65NS
+        MIN_LO =  65NS
+ FREQ:
+        NODE = CLOCK
+        MAXFREQ = 5MEG
+ WIDTH:
+        NODE = RESET
+        MIN_HI = 40NS

.ENDS CD4060B
