* ==========================================================================
* @part: CD4066B
* @family: logic
* @source: Bordodynov
* @url: https://github.com/kicad-spice-library/KiCad-Spice-Library (Bordodynov LTspice library)
* @origin-file: KiCad-Spice-Library/Models/uncategorized/Bordodynovs Electronics Lib/sub/CD4066B.lib
* @retrieved: 2026-09-24
* @licence: no licence or copyright text in the vendor file (terms unknown)
* @added-by: garv.singh
* @pins: CD4066B: 11 4 2 10 7
* @notes: quad analog switch
* @patched: 1 helper subckt/model name(s) suffixed with '__CD4066B' so this file can be included together with other files
* Definitions below are copied verbatim from the origin file.
* ==========================================================================

* ---- original file header ----
************
* ---- end of original file header ----

.SUBCKT CD4066B 11 4 2 10 7
*Analog Switch In Out Control Vdd Vss
X2 6 1 10 7 CD4066_INVERT__CD4066B
M1 14 6 7 7 CD4066BN
M7 11 6 14 10 CD4066BP
M3 11 1 14 14 CD4066BN
M4 11 1 4 14 CD4066BN
M8 11 6 4 10 CD4066BP
X1 2 6 10 7 CD4066_INVERT__CD4066B
.MODEL CD4066BN NMOS (LEVEL=1
+ VTO=3.5 KP=3.2M GAMMA=3.97U
+ PHI=.75 LAMBDA=1.87M RD=23.2
+ RS=90.1 IS=31.2F PB=.8 MJ=.46
+ CBD=63.5P CBS=76.2P CGSO=93.6N
+ CGDO=78N CGBO=128N)
.MODEL CD4066BP PMOS (LEVEL=1
+ VTO=-3.0 KP=2.4M GAMMA=3.97U
+ PHI=.75 LAMBDA=1.87M RD=21.2
+ RS=62.2 IS=31.2F PB=.8 MJ=.46
+ CBD=63.5P CBS=76.2P CGSO=93.6N
+CGDO=78N CGBO=128N)
.ENDS

.SUBCKT CD4066_INVERT__CD4066B 1 2 3 4
* Inverter In Out Vcc Vss
M1 2 1 3 3 CD49P
M2 2 1 4 4 CD49N
.MODEL CD49P PMOS (LEVEL=1
+ VTO=-2.9 KP=2M GAMMA=3.97U
+ PHI=.75 LAMBDA=1.87M RD=28.2
+ RS=45.2 IS=31.2F PB=.8 MJ=.46
+ CBD=21.2P CBS=25.4P CGSO=31.2N
+ CGDO=26N CGBO=42.8N)
.MODEL CD49N NMOS (LEVEL=1
+ VTO=2.1 KP=5M GAMMA=3.97U
+ PHI=.75 LAMBDA=1.87M RD=4.2
+ RS=4.2 IS=31.2F PB=.8 MJ=.46
+ CBD=21.2P CBS=25.4P CGSO=31.2N
+ CGDO=26N CGBO=42.8N)
.ENDS
